US03952031
2β-Ethoxy-3α-propionyloxy-5α-pregnane-11,20-dione
2β-Ethoxy-3α-hydroxy-5α-pregnane-11,20-dione (500 mg.) in pyridine (2.5 ml.) was treated with pripionic anhydride (2.5 ml.), and the solution was left at room temperature overnight. Water was added, and the mixture was extracted with chloroform. The extract was washed with dilute hyrochloric acid, dried over sodium sulphate and evaporated to an oil which was purified by preparative tlc to give the title compound (295 mg.) as a colourless foam [α]D + 107°.

reactant | 2β-Ethoxy-3α-hydroxy-5α-pregnane-11,20-dione | 500 mg | C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)O | C23H36O4
reactant | Water | O | H2O
reactant | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
product | 2β-Ethoxy-3α-propionyloxy-5α-pregnane-11,20-dione | 295 mg | C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)OC(CC)=O | C26H40O5
